US05385880
Synthesis of benzyl 2-(4,6-dimethoxypyrimidin-2-ylamino)nicotinate (Compound No. 398)
2.3 g (0.01 mol) of benzyl 2-aminonicotinate, 2.2 g (0.01 mol) of 4,6-dimethoxy-2-methylsulfonylpyrimidine and 0.4 g (0.01 mol) of 60% sodium hydride were weighed, and 10 ml of dimethylformamide was added thereto and the mixture was stirred at 100° C. for 2 hours. The mixture was then poured into water, and was extracted with 100 ml of ethyl acetate. The extracted material was then washed with water and a saturated sodium chloride aqueous solution, and was dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off, and the residue was recrystallized with ethanol to obtain 1.6 g of a yellow-brownish powder of the aimed product.

reactant | benzyl 2-aminonicotinate | 0.01 mol, 2.3 g | NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=N1 | C13H12N2O2
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 0.01 mol, 2.2 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | sodium hydride | 0.01 mol, 0.4 g | [H-].[Na+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzyl 2-(4,6-dimethoxypyrimidin-2-ylamino)nicotinate | 1.6 g, Yield: 43.0% | COC1=NC(=NC(=C1)OC)NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=N1 | C19H18N4O4
